US09376449B2
To a mixture of ethyl 5-methoxy-3-(2-nitroethyl)-1H-indole-2-carboxylate (850 mg), di-tert-butyl dicarbonate (2.54 g), and tetrahydrofuran (60.0 mL) was added Raney nickel (85.0 mg), followed by stirring at 60° C. for 3 hours under a hydrogen atmosphere (3.5 kgf/cm2). The reaction mixture was filtered through celite and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=100:0 to 2:1) to obtain ethyl 3-{2-[(tert-butoxycarbonyl)amino]ethyl}-5-methoxy-1H-indole-2-carboxylate (761 mg) as a white solid.

reactant | ethyl 5-methoxy-3-(2-nitroethyl)-1H-indole-2-carboxylate | 850 mg | COC=1C=C2C(=C(NC2=CC1)C(=O)OCC)CC[N+](=O)[O-] | C14H16N2O5
reactant | di-tert-butyl dicarbonate | 2.54 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | Raney nickel | 85.0 mg | [Ni] | Ni
solvent | tetrahydrofuran | 60.0 mL | O1CCCC1 | C4H8O
product | ethyl 3-{2-[(tert-butoxycarbonyl)amino]ethyl}-5-methoxy-1H-indole-2-carboxylate | 761 mg | C(C)(C)(C)OC(=O)NCCC1=C(NC2=CC=C(C=C12)OC)C(=O)OCC | C19H26N2O5
